US07423159B2
A mixture of 2-(4-nitrobenzyl)-2H-1,2,3-benzotriazole (1.0 g), 10% palladium carbon (100 mg) and ethanol (20 ml) was stirred under a hydrogen atmosphere at room temperature for 4 hrs. Palladium carbon was removed from the reaction mixture by filtration, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography to give 4-(2H-1,2,3-benzotriazol-2-ylmethyl)aniline (313 mg, 35%) as crystals from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 229-230° C.

reactant | 2-(4-nitrobenzyl)-2H-1,2,3-benzotriazole | 1.0 g | [N+](=O)([O-])C1=CC=C(CN2N=C3C(=N2)C=CC=C3)C=C1 | C13H10N4O2
catalyst | palladium carbon | 100 mg | [C].[Pd]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-(2H-1,2,3-benzotriazol-2-ylmethyl)aniline | 313 mg, 35% | N=1N(N=C2C1C=CC=C2)CC2=CC=C(N)C=C2 | C13H12N4
